US06156774
2-[5-(Imidazolidin-2,4-dion-3-ylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine
The title compound was prepared from 2-[5-(imidazolidin-2,4-dion-3-ylmethyl)thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester (Description 62) by the procedure described in Example 27. vmax (KBr) 3391, 1714 and 1638 cm-1. m/z 479 (MNH4+).

reactant | 2-[5-(imidazolidin-2,4-dion-3-ylmethyl)thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester | C(C)OC(C(NC(C(CCC1=CC=CC=C1)CSC(C)=O)=O)C=1SC(=CC1)CN1C(NCC1=O)=O)=O | C25H29N3O6S2
reactant | KBr | [K+].[Br-]
product | 2-[5-(Imidazolidin-2,4-dion-3-ylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine | N1C(N(C(C1)=O)CC1=CC=C(S1)C(NC(C(CCC1=CC=CC=C1)CS)=O)C(=O)O)=O | C21H23N3O5S2
